US08835470B2
(R/S)-3-(2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid (Int-V, 25 mg, 0.050 mmol), azetidin-3-ol, HCl (5.45 mg, 0.050 mmol), 4-methylmorpholine (20.13 mg, 0.199 mmol), and HATU (24.60 mg, 0.065 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (Sun Fire C18 5u19×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, product retention=11.15 min (20 mL/min, 220 nM) to provide (R/S)-2-hydroxy-N-(3-(3-hydroxyazetidin-1-yl)-3-oxopropyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (8 mg, 0.013 mmol, 26.2% yield): LCMS=558.3 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.19 (2 H, d, J=8.36 Hz), 7.52-7.78 (7 H, m), 5.11 (1 H, s), 4.40-4.57(1 H, m), 4.10-4.38(2 H, m), 3.89(1 H, ddd, J=9.52, 4.24, 1.21 Hz), 3.68-3.80 (1 H, m), 3.49 (2 H, t, J=6.27 Hz), 2.27-2.46 (2 H, m); HPLC peak RT=8.1 min (Method A).

reactant | (R/S)-3-(2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid | 0.050 mmol, 25 mg | OC(C(=O)NCCC(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C23H17F3N4O6
reactant | 4-methylmorpholine | 0.199 mmol, 20.13 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.065 mmol, 24.60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-(3-(3-hydroxyazetidin-1-yl)-3-oxopropyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.013 mmol, 8 mg, 26.2% yield | OC(C(=O)NCCC(=O)N1CC(C1)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C26H22F3N5O6
